US07491732B2
2-(4-Nitrophenoxy)-2-methylpropanamide was dissolved in methanol (50 mL) and to the solution was added 10% Pd—C (500 mg). The reaction mixture was reacted under hydrogen atmosphere (˜40 psi) for 1 h. The catalyst was filtered off over celite. The filtrate was evaporated to give 2-(4-aminophenoxy)-2-methylpropanamide as a white solid.

reactant | 2-(4-Nitrophenoxy)-2-methylpropanamide | [N+](=O)([O-])C1=CC=C(OC(C(=O)N)(C)C)C=C1 | C10H12N2O4
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd—C | 500 mg | [Pd] | Pd
product | 2-(4-aminophenoxy)-2-methylpropanamide | NC1=CC=C(OC(C(=O)N)(C)C)C=C1 | C10H14N2O2
